US05990315
A 250-mL, three neck round bottomed flask was equipped with a mechanical stirrer, heating mantel, thermometer, pressure equalizing addition funnel and reflux condenser. A nitrogen purge was established across the top of the condenser with all gases exiting through a caustic scrubber. The flask was charged with 53.9 g (0.143 mole, 82% assay) of 2-(5-amino-2,4-dichlorophenyl)-4-(difluoromethyl)-2,4-dihydro-5-methyl-3H-1,2,4-triazol-3-one, 1.7 g (0.015 mole) of tetramethylammonium chloride (Aldrich, 97%) and 24 g of toluene. The mixture was heated to reflux and 15.6 ml (23 g, 0.20 mole) of methanesulfonyl chloride (Aldrich, 99.5%) added dropwise over 36 minutes. Ninety minutes after the completion of the addition, a further 3.9 mL (5.75 g, 0.05 mole) of methanesulfonyl chloride was added. After an additional 1.5 hours at reflux, the reaction mixture was diluted with 75 mL of toluene, transferred to a 1-L round bottomed flask equipped with a mechanical stirrer, and rinsed in with 100 mL of toluene. The mixture was allowed to cool to room temperature and stirred overnight (15.5 hours). The resulting slurry was cooled using an ice bath for three hours, the product collected by filtration, and the filter cake washed with a total of 155 ml of cold toluene and dried in a vacuum oven to provide 57.8 g (83% yield) of 80.3% assay N-[2,4-dichloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]phenyl]methanesulfonamide as a tan solid.

reactant | 2-(5-amino-2,4-dichlorophenyl)-4-(difluoromethyl)-2,4-dihydro-5-methyl-3H-1,2,4-triazol-3-one | 0.143 mole, 53.9 g | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C10H8Cl2F2N4O
reactant | methanesulfonyl chloride | 0.20 mole, 15.6 ml, 23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 0.05 mole, 3.9 mL, 5.75 g | CS(=O)(=O)Cl | CH3ClO2S
catalyst | tetramethylammonium chloride | 0.015 mole, 1.7 g | [Cl-].C[N+](C)(C)C
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 24 g | C1(=CC=CC=C1)C | C7H8
product | N-[2,4-dichloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]phenyl]methanesulfonamide | 57.8 g, 83% yield | ClC1=C(C=C(C(=C1)Cl)N1N=C(N(C1=O)C(F)F)C)NS(=O)(=O)C | C11H10Cl2F2N4O3S
